US08309730B2
To a stirred solution of 2-methylcyclohexane-1,3-dione (10 g, 79 mmol), lithium iodide (26 g, 194 mmol), and anhydrous THF (300 mL) cooled in a water bath was added 1,8-diazabicyclo[5.4.0]-7-undecene (14 mL, 94 mmol) dropwise under nitrogen. The mixture was stirred at RT for 40 min before 1-(chloromethyl)-4-(4-fluorophenyl)-1H-imidazole hydrochloride (9.8 g, 40 mmol) was added in one portion. The reaction mixture was stirred at RT for 3 hr and at 60° C. for 2 hr. After the mixture was cooled, water (250 mL) and heptane (250 mL) were added. The aqueous layer was separated and extracted with ethyl acetate (2×250 mL). The combined organic solutions were washed with 16% aqueous potassium carbonate solution (3×50 mL), dried (Na2SO4), and concentrated. Silica gel flash chromatography (20-100% ethyl acetate in hexanes) gave 2((4-(4-fluorophenyl)-1H-imidazol-1-yl)methyl)-2-methylcyclohexane-1,3-dione (7.1 g, 24 mmol, 60% yield) as a solid. MS found: (M+H)+=301.4.

reactant | 2-methylcyclohexane-1,3-dione | 79 mmol, 10 g | CC1C(CCCC1=O)=O | C7H10O2
reactant | lithium iodide | 194 mmol, 26 g | [I-].[Li+]
reactant | 1,8-diazabicyclo[5.4.0]-7-undecene | 94 mmol, 14 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 1-(chloromethyl)-4-(4-fluorophenyl)-1H-imidazole hydrochloride | 40 mmol, 9.8 g | Cl.ClCN1C=NC(=C1)C1=CC=C(C=C1)F
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | heptane | 250 mL | CCCCCCC | C7H16
solvent | water | 250 mL | O | H2O
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | 2((4-(4-fluorophenyl)-1H-imidazol-1-yl)methyl)-2-methylcyclohexane-1,3-dione | 24 mmol, 7.1 g, 60% yield | FC1=CC=C(C=C1)C=1N=CN(C1)CC1(C(CCCC1=O)=O)C | C17H17FN2O2
